US04762829
N-(3,7,11,15,19-Pentamethyl-2,6,10,14,18-eicosapentaenoyl)-ethanolamine
The procedure of Example 1 was repeated except that 7.4 g of 3,7,11,15,19-pentamethyl-2,6,10,14,18-eicosapentaenoic acid and 1.8 ml of ethanolamine were used as starting materials. 7.7 g (yield 93%) of the title compound as a colorless oil was obtained.

reactant | 3,7,11,15,19-pentamethyl-2,6,10,14,18-eicosapentaenoic acid | 7.4 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C | C25H40O2
reactant | ethanolamine | 1.8 ml | C(O)CN | C2H7NO
product | N-(3,7,11,15,19-Pentamethyl-2,6,10,14,18-eicosapentaenoyl)-ethanolamine | 7.7 g, yield 93% | CC(=CC(=O)NCCO)CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C | C27H45NO2
